US08242133B2
A mixture of 7.55 g of 5-chloro-2-nitro-4-trifluoromethylphenol and 10 ml of ethyl acetate was added dropwise to a mixture, which was heated to 80° C., of 8.7 g of electrolytic iron, 30 ml of acetic acid and 50 ml of water, and then the reaction mixture was stirred at the same temperature for 30 minutes. The mixture was cooled to room temperature, and then water was added, followed by extraction with ethyl acetate. The combined organic layers were washed with water, a saturated aqueous solution of sodium hydrogencarbonate and a saturated sodium chloride solution, dried over magnesium sulfate, and then concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to give 5.4 g of 2-amino-5-chloro-4-trifluoromethylphenol.

reactant | 5-chloro-2-nitro-4-trifluoromethylphenol | 7.55 g | ClC=1C(=CC(=C(C1)O)[N+](=O)[O-])C(F)(F)F | C7H3ClF3NO3
reactant | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
reactant | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
catalyst | iron | 8.7 g | [Fe] | Fe
solvent | water | O | H2O
solvent | water | 50 ml | O | H2O
product | 2-amino-5-chloro-4-trifluoromethylphenol | 5.4 g | NC1=C(C=C(C(=C1)C(F)(F)F)Cl)O | C7H5ClF3NO
